US07790770B2
To a solution of 1-bromo-3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)benzene (5.0 g, 17 mmol) in ether (40 mL) at −78° C. was added a solution of n-butyllithium (6.9 mL, 2.5 M, 17 mmol). The reaction mixture was stirred for 15 minutes and was added a solution of 3-bromo-4-fluorobenzaldehyde (3.5 g, 17 mmol) in ether (10 mL). The reaction was stirred at −78° C. for 2 h, then quenched with sat. NH4Cl and warmed to room temperature. The ether layer was separated and dried over magnesium sulfate, filtered and concentrated to yield (3-bromo-4-fluorophenyl)(4-fluoro-2-(1,1,2,2-tetrafluoroethoxy)phenyl)methanol as an amber oil (6.5 g, 92% yield). The product was used in the next step without further purification. To a solution of (3-bromo-4-fluorophenyl)(4-fluoro-2-(1,1,2,2-tetrafluoroethoxy)phenyl)methanol (29.5 g, 71.3 mmol) in dichloromethane (600 mL) was added MnO2 (30 g, 345 mmol). The reaction mixture was stirred for 6 h, then another 30 g of MnO2 was added and the reaction continued to stir overnight. The MnO2 addition was repeated twice and the reaction was stirred for a total of 48 h when the reaction was complete. The suspension was filtered through a pad of celite, the filtrate vas concentrated and the residue was purified by ISCO flash chromatography to yield (3-bromo-4-fluorophenyl)(4-fluoro-2-(1,1,2,2-tetrafluoroethoxy)phenyl)methanone as a yellow oil (60% yield). 1H NMR (400 MHz, CDCl3) δ ppm 8.06 (1H, d, J=6.59 Hz), 7.76 (1H, ddd, J=6.48, 4.50, 2.20 Hz), 7.38-7.44 (2H, m), 7.21-7.29 (2H, m), 6.09-5.83 (1H, t).

reactant | (3-bromo-4-fluorophenyl)(4-fluoro-2-(1,1,2,2-tetrafluoroethoxy)phenyl)methanol | 71.3 mmol, 29.5 g | BrC=1C=C(C=CC1F)C(O)C1=C(C=C(C=C1)F)OC(C(F)F)(F)F | C15H9BrF6O2
solvent | dichloromethane | 600 mL | ClCCl | CH2Cl2
catalyst | MnO2 | 345 mmol, 30 g | O=[Mn]=O
catalyst | MnO2 | 30 g | O=[Mn]=O
product | (3-bromo-4-fluorophenyl)(4-fluoro-2-(1,1,2,2-tetrafluoroethoxy)phenyl)methanone | 60% yield | BrC=1C=C(C=CC1F)C(=O)C1=C(C=C(C=C1)F)OC(C(F)F)(F)F | C15H7BrF6O2
